US07678783B2
A solution of methyl 2-chloro-5-iodo-3-nitrobenzoate (3 g, 8.8 mmol) and vinyl tributyltin (3.6 g, 11.4 mmol) in DMF (50 mL) was degassed with argon. PdCl2/(PPh3)2 (308 mg, 0.44 mmol) was added, the reaction vessel was sealed under argon and the reaction mixture was stirred at 90° C. for 16 h. The reaction mixture was cooled to RT and treated with aqueous KF (1.5 g in 20 mL water) for 2 h30. The mixture was diluted with water and EtOAc filtered on cellite. The organic layer was separated, washed with aq LiCl (×3), dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography (120 g silica gel, 0 to 20% EtOAc in hexane) to give methyl 2-chloro-3-nitro-5-vinylbenzoate as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.94 (d, J=2 Hz, 1H), 7.83 (d, J=2 Hz, 1H), 6.69 (dd, J=17.4 Hz, 10.8 Hz, 1H), 5.89 (d, J=17.4 Hz, 1H), 5.52 (d, J=10.8 Hz, 1H), 3.99 (s, 3H).

reactant | methyl 2-chloro-5-iodo-3-nitrobenzoate | 8.8 mmol, 3 g | ClC1=C(C(=O)OC)C=C(C=C1[N+](=O)[O-])I | C8H5ClINO4
reactant | vinyl tributyltin | 11.4 mmol, 3.6 g | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | KF | 20 mL, 1.5 g | [F-].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 2-chloro-3-nitro-5-vinylbenzoate | ClC1=C(C(=O)OC)C=C(C=C1[N+](=O)[O-])C=C | C10H8ClNO4
